US07727988B2
3-[5-(2,4-Dimethyl-oxazol-5-yl)-2,4-dioxo-3,4-dihydro-2H-pyrimidin-1-yl]-propionaldehyde (Prep64)
1-(3,3-Dimethoxy-propyl)-5-(2,4-dimethyl-oxazol-5-yl)-1H-pyrimidine-2,4-dione (Prep63, 150 mg, 0.49 mmol) was dissolved in THF (10 mL) and 1N HClaq (3 mL) was added. The mixture was stirred at 45° C. for 1 hour. After cooling and neutralization with a saturated solution of NaHCO3 the product was extracted with DCM. The organic phase was dried (Na2SO4) and evaporated to give 74 mg of the title compound (58% yield).

reactant | 1-(3,3-Dimethoxy-propyl)-5-(2,4-dimethyl-oxazol-5-yl)-1H-pyrimidine-2,4-dione | 0.49 mmol, 150 mg | COC(CCN1C(NC(C(=C1)C1=C(N=C(O1)C)C)=O)=O)OC | C14H19N3O5
solvent | THF | 10 mL | C1CCOC1 | C4H8O
product | 3-[5-(2,4-Dimethyl-oxazol-5-yl)-2,4-dioxo-3,4-dihydro-2H-pyrimidin-1-yl]-propionaldehyde | 74 mg, 58% yield | CC=1OC(=C(N1)C)C=1C(NC(N(C1)CCC=O)=O)=O | C12H13N3O4
